US06933295B2
2-[3-({[tert-Butyl(dimethyl)silyl]oxy}methyl)benzyl]-1H-isoindole-1,3(2H)-dione
Under argon and at room temperature, imidazole (1.0 g, 15.0 mmol) and tert-butyldimethylsilyl chloride (1.7 g, 11.2 mmol) are added to a solution of 2-[3-(hydroxymethyl)benzyl]-1H-isoindole-1,3(2H)-dione (2.0 g, 7.5 mmol) in tetrahydrofuran (22.5 ml). The reaction mixture is stirred at room temperature for 16 h, and water is added. After addition of dichloromethane and phase separation, the aqueous phase is extracted with dichloromethane. The combined organic phases are dried (sodium sulfate), filtered and concentrated under reduced pressure. The desired product is purified by flash chromatography (petroleum ether/ethyl acetate mixtures). Yield: 2.7 g, 95% of theory.

reactant | imidazole | 15.0 mmol, 1.0 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 11.2 mmol, 1.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 2-[3-(hydroxymethyl)benzyl]-1H-isoindole-1,3(2H)-dione | 7.5 mmol, 2.0 g | OCC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C16H13NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 22.5 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3-({[tert-Butyl(dimethyl)silyl]oxy}methyl)benzyl]-1H-isoindole-1,3(2H)-dione | [Si](C)(C)(C(C)(C)C)OCC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=CC1 | C22H27NO3Si
